US08633315B2
To a solution of tert-butyl (2S,3S)-2-(tert-butyldimethylsilyloxy)-1-hydroxy-6-(trimethylsilyl)hex-5-yn-3-ylcarbamate (1.83 g, 4.4 mmol) in DCM (20 mL) were added sodium bicarbonate (1.5 g, 18 mmol) and Dess-MartinPeriodinane (2.4 g, 5.7 mmol) and the reaction was stirred at rt for 1 h. The mixture was quenched with sat NaHCO3 followed by the addition of sodium thiosulfate (3.5 g, 22 mmol) and stirred for an additional 1 h. The reaction was extracted with DCM and the combined organics were washed with brine, dried over Na2SO4, filtered, and concentrated to afford a light yellow oil as tert-butyl (2S,3S)-2-(tert-butyldimethylsilyloxy)-1-oxo-6-(trimethylsilyl)hex-5-yn-3-ylcarbamate. MS m/z: 316.2 (M+1).

reactant | tert-butyl (2S,3S)-2-(tert-butyldimethylsilyloxy)-1-hydroxy-6-(trimethylsilyl)hex-5-yn-3-ylcarbamate | 4.4 mmol, 1.83 g | [Si](C)(C)(C(C)(C)C)O[C@H](CO)[C@H](CC#C[Si](C)(C)C)NC(OC(C)(C)C)=O | C20H41NO4Si2
reactant | sodium bicarbonate | 18 mmol, 1.5 g | C([O-])(O)=O.[Na+]
reactant | Dess-MartinPeriodinane | 5.7 mmol, 2.4 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | 22 mmol, 3.5 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (2S,3S)-2-(tert-butyldimethylsilyloxy)-1-oxo-6-(trimethylsilyl)hex-5-yn-3-ylcarbamate | [Si](C)(C)(C(C)(C)C)O[C@H](C=O)[C@H](CC#C[Si](C)(C)C)NC(OC(C)(C)C)=O | C20H39NO4Si2
